US07256201B2
1) Synthesis of 5-hydroxy-2-(4-hydroxyphenyl)isoindoline-1,3-dione
A suspension of 4-hydroxyphthalic acid (3.00 g) and 4-aminophenol (1.98 g) in glacial acetic acid (15 mL) was heated under nitrogen at 120° C. for 1.5 h. The brown reaction solution was cooled to room temperature, poured into water (200 mL) and allowed to sit undisturbed for 30 min. The precipitate was collected by filtration and washed with water (2×60 mL). The solid was dried under high vacuum at 50° C. for 18 h yielding the title compound (3.14 g) as a tan solid. 1H NMR (DMSO-d6): 10.99 (s, 1H), 9.72 (s, 1H), 7.76 (d, 1H, J=7.8 Hz), 7.18 (m, 4M), 6.86 (m, 2H); MS: 256 (MH+).

reactant | 4-hydroxyphthalic acid | 3.00 g | OC=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H6O5
reactant | 4-aminophenol | 1.98 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | water | 200 mL | O | H2O
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 5-hydroxy-2-(4-hydroxyphenyl)isoindoline-1,3-dione | 3.14 g | OC=1C=C2C(N(C(C2=CC1)=O)C1=CC=C(C=C1)O)=O | C14H9NO4
